US09359277B2
To a 0° C. solution of LiHMDS (0.65 mL, 0.6 M in THF) was added a solution of 1-indanone (26 mg, 0.19 mmol) in THF (1.0 mL). The reaction mixture was allowed to warm to room temperature over 20 min, and then CF3CO2CH2CF3 was added (55 μL, 0.41 mmol). After an additional 20 min at room temperature, saturated aqueous NH4Cl (5 mL) was added, and the resulting mixture was extracted with EtOAc (3×5 mL). The organics were dried over Na2SO4 and concentrated under reduced pressure. Without purification, the crude mixture was immediately subjected to general procedure B. SiO2 flash chromatography (25% EtOAc in hexanes) afforded the 2-methlyene-1-indanone as a yellow oil (28 mg) in 98% yield.

reactant | LiHMDS | 0.6 M, 0.65 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 1-indanone | 0.19 mmol, 26 mg | C1(CCC2=CC=CC=C12)=O | C9H8O
reactant | CF3CO2CH2CF3 | C(F)(F)(F)C(=O)OCC(F)(F)F | C4H2F6O2
reactant | NH4Cl | 5 mL | [NH4+].[Cl-]
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
product | 2-methlyene-1-indanone | 28 mg, 98% yield | C=C1C(C2=CC=CC=C2C1)=O | C10H8O
